* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 16.1
R1 n1 a 2
R2 a nc 1
V2 nc nd DC 31.2
R3 nd ne 5
V3 b ne DC 10
V4 nf b DC 10.1
R4 nf 0 1
.op
.print dc V(a) V(b)
.end